US07244747B2
In a 250 ml three necked flask fitted with a magnetic stirrer, under inert atmosphere, a mixture of 4-propyl-pyrrolidin-2-one (0.5 g, 3.9 mmol) and ethyl glyoxylate (50% in toluene, 2.4 ml, 11 mmol) in acetone is heated up at 60° C. for 6 h and another portion of ethyl glyoxylate (0.4 ml) is added. After 17 h at 50° C., the reaction mixture is concentrated in vacuo to give the crude hydroxy-(2-oxo-4-propyl-pyrrolidin-1-yl)-acetic acid ethyl ester a19 (2.02 g). It is used in the next step without any further purification.

reactant | 4-propyl-pyrrolidin-2-one | 3.9 mmol, 0.5 g | C(CC)C1CC(NC1)=O | C7H13NO
reactant | ethyl glyoxylate | 11 mmol, 2.4 ml | C(C=O)(=O)OCC | C4H6O3
reactant | ethyl glyoxylate | 0.4 ml | C(C=O)(=O)OCC | C4H6O3
solvent | acetone | CC(=O)C | C3H6O
product | hydroxy-(2-oxo-4-propyl-pyrrolidin-1-yl)-acetic acid ethyl ester | C(C)OC(C(N1C(CC(C1)CCC)=O)O)=O | C11H19NO4
